US06492508B1
Purification of Hydroxyproline-containing C-terminal Fragment of Type I (α1) Collagen
Cell paste harvested from a 1 L culture grown as in Example 25 was resuspended in 30 ml of lysis buffer (2M urea, 137 mM NaCl, 2.7 mM KCl, 4.3 mM Na2HPO4, 1.4 mM KH2PO4, 10 mM EDTA, 10 mM βME, 0.1% Triton X-100, pH 7.4) at 4° C. Lysozyme (chicken egg white) was added to 100 μg/ml and the solution incubated at 4° C. for 30 minutes. The solution was passed twice through a cell disruption press (SLM Instruments, Rochester, N.Y.) and then centrifuged at 30,000×g for 30 minutes. The pellet was resuspended in 30 ml of 50 mM Tris-HCl, pH 7.6, centrifuged at 30,000×g for 30 minutes, and the pellet solubilized in 25 ml of solubilization buffer (8M urea, 137 mM NaCl, 2.7 mM KCl, 4.3 mM Na2HPO4, 1.4 mM KH2PO4, 5 mM EDTA, 5 mM β ME). The solution was centrifuged at 30,000×g for 30 minutes and supernatent dialyzed against two changes of 4 L of distilled water at 4° C. Following dialysis, the entire mixture was lyophilized. The lyophilized solid was dissolved in 0.1M HCl in a flask with stirring. After addition of a 5-fold excess of crystalline BrCN, the flask was evacuated and filled with nitrogen. Cleavage was allowed to proceed for 24 hrs, at which time the solvent was removed in vacuo. The residue was dissolved in 0.1% trifluoroacetic acid (TFA) and purified by reverse-phase HPLC using a Vydac C4 RP-HPLC column (10×250 mm, 5μ, 300 Å) on a BioCad Sprint system (Perceptive Biosystems, Framingham, Mass.). Hydroxyproline-containing D4 protein was eluted with a gradient of 15-40% acetonitrile/0.1% TFA over a 45 minute period. Protein D4-α1 eluted at 26% acetonitrile/0.1% TFA.

reactant | urea | 2M | NC(=O)N | CH4N2O
reactant | NaCl | 137 mM | [Na+].[Cl-]
reactant | KCl | 2.7 mM | [Cl-].[K+]
reactant | KH2PO4 | 1.4 mM | OP(=O)(O)[O-].[K+]
reactant | EDTA | 10 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | urea | 8M | NC(=O)N | CH4N2O
reactant | NaCl | 137 mM | [Na+].[Cl-]
reactant | KCl | 2.7 mM | [Cl-].[K+]
reactant | KH2PO4 | 1.4 mM | OP(=O)(O)[O-].[K+]
reactant | EDTA | 5 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
solvent | Tris-HCl | 50 mM, 30 ml | C(C(CO)(CO)N)O.Cl
product | Hydroxyproline | N1[C@H](C(=O)O)C[C@@H](O)C1 | C5H9NO3
